US05011931
A mixture of acetic anhydride (16.5 ml) and formic acid (11.2 ml) was stirred and heated at 50°-60° under nitrogen for 2 hours. The mixture was cooled to just below 0° and 1-(4-fluoro-2-methylaminophenyl)-2-methylsulphinylethanone (17.2 g), prepared in a similar manner to that described in Example 1, added over a period of 5 minutes. The mixture was stirred at just below 0° for 5 hours and then stored at 4° overnight. The mixture was cooled in an ice/salt bath to maintain the temperature below 0° whilst water (60 ml) was added. The mixture was evaporated in vacuo below 15° to give a green/brown oil. Purification of the oil by high performance liquid chromatography carried out using a Gilson system fitted with a 2" Dynamax silica column and eluting with dichloromethane/methanol (97.5:2.5) at 20 ml/min gave 5'-fluoro-N-methyl-2'-methylsulphinylacetylformanilide in the form of a colourless oil.

reactant | acetic anhydride | 16.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 11.2 ml | C(=O)O | CH2O2
reactant | 1-(4-fluoro-2-methylaminophenyl)-2-methylsulphinylethanone | 17.2 g | FC1=CC(=C(C=C1)C(CS(=O)C)=O)NC | C10H12FNO2S
reactant | water | 60 ml | O | H2O
product | 5'-fluoro-N-methyl-2'-methylsulphinylacetylformanilide | FC=1C=CC(=C(N(C=O)C)C1)C(CS(=O)C)=O | C11H12FNO3S
